US04670488
To the same flask as used in Example 1 were added 39.4 g (0.1 mole) of N-(2,2,6,6-tetramethyl-4-piperidinyl)-N-undecanylglycine methyl ester, 17.3 g (0.11 mole) of 2,2,6,6-tetramethyl-4-piperidinol, 0.23 g of lithium amide and 100 g of heptane. The temperature was raised with stirring, and reaction was carried out at 98° to 105° C. for 6 hours, during which methanol was removed from the reaction system by means of the Deanstark trap. After completion of the reaction, water was added to the reaction solution to dissolve the product in the heptane layer. The heptane layer was separated, and heptane in the layer was removed by distillation to obtain 32.1 g of N-(2,2,6,6-tetramethyl-4-piperidinyl)-N-undecanylglycine(2,2,6,6-tetramethyl-4-piperidinyl)ester as a pale brown liquid. Yield, 61% based on N-(2,2,6,6-tetramethyl-4-piperidinyl)-N-undecanylglycine methyl ester.

reactant | N-(2,2,6,6-tetramethyl-4-piperidinyl)-N-undecanylglycine methyl ester | 0.1 mole, 39.4 g | COC(CN(CCCCCCCCCCC)C1CC(NC(C1)(C)C)(C)C)=O | C23H46N2O2
reactant | 2,2,6,6-tetramethyl-4-piperidinol | 0.11 mole, 17.3 g | CC1(NC(CC(C1)O)(C)C)C | C9H19NO
reactant | lithium amide | 0.23 g | [NH2-].[Li+]
reactant | methanol | CO | CH4O
solvent | heptane | CCCCCCC | C7H16
solvent | heptane | 100 g | CCCCCCC | C7H16
product | N-(2,2,6,6-tetramethyl-4-piperidinyl)-N-undecanylglycine(2,2,6,6-tetramethyl-4-piperidinyl)ester | 32.1 g | CC1(NC(CC(C1)OC(CN(CCCCCCCCCCC)C1CC(NC(C1)(C)C)(C)C)=O)(C)C)C | C31H61N3O2
